US07691867B2
A mixture of N-(3-fluorophenyl)-2-{4-[(7-hydroxyquinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide (0.59 g, 1.2 mmol), cesium carbonate (1.95 g, 6.0 mmol) and tert-butyl 3-{[(methylsulphonyl)oxy]methyl}pyrrolidine-1-carboxylate (assumed 1.3 mmol) in dimethyl acetamide (10 ml) was heated at 80° C. for 6 hours. The mixture was poured into water and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over magnesium sulphate and evaporated in vacuo. The residue was purified by silica gel chromatography eluting with 4 to 7% methanol in dichloromethane to yield tert-butyl 3-[({4-[(1-{2-[(3-fluorophenyl)amino]-2-oxoethyl}-1H-pyrazol-4-yl)amino]quinazolin-7-yl}oxy)methyl]pyrrolidine-1-carboxylate (0.435 g, 65% yield): MS (+ve ESI): 562 (M+H)+.

reactant | N-(3-fluorophenyl)-2-{4-[(7-hydroxyquinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide | 1.2 mmol, 0.59 g | FC=1C=C(C=CC1)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)O)=O | C19H15FN6O2
reactant | cesium carbonate | 6.0 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 3-{[(methylsulphonyl)oxy]methyl}pyrrolidine-1-carboxylate | 1.3 mmol | CS(=O)(=O)OCC1CN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | water | O | H2O
solvent | dimethyl acetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | tert-butyl 3-[({4-[(1-{2-[(3-fluorophenyl)amino]-2-oxoethyl}-1H-pyrazol-4-yl)amino]quinazolin-7-yl}oxy)methyl]pyrrolidine-1-carboxylate | 0.435 g, 65% yield | FC=1C=C(C=CC1)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)OCC1CN(CC1)C(=O)OC(C)(C)C)=O | C29H32FN7O4
